US09403798B2
3-Benzyl-6-(4-fluorophenyl)-3-azabicyclo[3.1.0]hexan-2-one
To a dichloromethane solution (40 mL) of (E)-1-(3-chloroprop-1-en-1-yl)-4-fluorobenzene (2.40 g, 14.0 mmol), rhodium (II) acetate (57.7 mg, 0.140 mmol) was added and then a dichloromethane solution (20 mL) of ethyl diazoacetate (1.92 g, 16.8 mmol) was added dropwise at room temperature over 18 hours with stirring. After completion of the reaction, the reaction solution was concentrated and N,N-dimethylformamide (20 mL), benzylamine (1.50 g, 14.0 mmol), and sodium bicarbonate (1.18 g, 14.0 mmol) were added to the resultant residue and the resultant mixture was stirred at 150° C. for 2 hours. After completion of the reaction, ethyl acetate was added to the reaction solution and the resultant mixture was washed with 1 M hydrochloric acid and a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. To the obtained residue, ethyl acetate was added and the resultant mixture was filtered. The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to obtain the title compound (956 mg, yield 24%).

reactant | (E)-1-(3-chloroprop-1-en-1-yl)-4-fluorobenzene | 14.0 mmol, 2.40 g | ClC/C=C/C1=CC=C(C=C1)F | C9H8ClF
reactant | ethyl diazoacetate | 16.8 mmol, 1.92 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | benzylamine | 14.0 mmol, 1.50 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium bicarbonate | 14.0 mmol, 1.18 g | C([O-])(O)=O.[Na+]
catalyst | rhodium (II) acetate | 0.140 mmol, 57.7 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-Benzyl-6-(4-fluorophenyl)-3-azabicyclo[3.1.0]hexan-2-one | 956 mg, yield 24% | C(C1=CC=CC=C1)N1C(C2C(C2C1)C1=CC=C(C=C1)F)=O | C18H16FNO
